US08791267B2
A flask was charged with 3-Bromomethyl-3′-chloro-2-fluoro-6-methoxy-biphenyl (I-32, 3.3 g, 10 mmol), 2-fluoro-pyridine-5-boronic acid (1.4 g, 10 mmol), toluene (40 mL), 2M aq. Na2CO3 (10 mL, 20 mmol), ethanol (10 mL) and Pd(PPh3)4 (577 mg, 0.5 mmol). The reaction mixture was bubbled with nitrogen gas for 5 minutes. Then the yellow reaction mixture was stirred at 80° C. After overnight stirring the reaction mixture was cooled to room temperature and concentrated in-vacuo. The residue was diluted in EtOAc (20 mL) and washed with water (30 mL). The aqueous layer was extracted with EtOAc (2×20 mL). The combined organic layers were washed with brine (50 mL), dried over Na2SO4 and concentrated in-vacuo. The crude was purified by silica gel column chromatography, eluted with hexane/EtOAc (9:1) to produce 3.23 g (93% yield) of 5-(3′-chloro-2-fluoro-6-methoxy-biphenyl-3-ylmethyl)-2-fluoro-pyridine (P-456) as a colorless solid. 1H NMR (400 MHz, DMSO-d6) 3.73 (s, 3H), 3.98 (s, 2H), 6.95 (d, J=8.6 Hz, 1H), 7.11 (dd, J=8.4, 2.8 Hz, 1H), 7.25-7.51 (m, 5H), 7.82 (td, J=8.2, 2.4 Hz, 1H), 8.14 (s, 1H), 8.32 (s, 1H) ppm.

reactant | 3-Bromomethyl-3′-chloro-2-fluoro-6-methoxy-biphenyl | 10 mmol, 3.3 g | BrCC=1C(=C(C(=CC1)OC)C1=CC(=CC=C1)Cl)F | C14H11BrClFO
reactant | 2-fluoro-pyridine-5-boronic acid | 10 mmol, 1.4 g | FC1=NC=C(C=C1)B(O)O | C5H5BFNO2
reactant | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
reactant | Na2CO3 | 20 mmol, 2M, 10 mL | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | Pd(PPh3)4 | 0.5 mmol, 577 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 5-(3′-chloro-2-fluoro-6-methoxy-biphenyl-3-ylmethyl)-2-fluoro-pyridine | 3.23 g, 93% yield | ClC=1C=C(C=CC1)C1=C(C(=CC=C1OC)CC=1C=CC(=NC1)F)F | C19H14ClF2NO
